US08609656B2
N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)-2,2-dimethylpropion-amide (Table 1, Compound No. 73)
The title compound can be synthesized from 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride and pivalic anhydride by using the same techniques as in Example 41.

reactant | 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride | Cl.NC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)N(O)C1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | pivalic anhydride | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)-2,2-dimethylpropion-amide | ClC1=C(C=C(C=C1)N(C(NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)NC(C(C)(C)C)=O)=O)O)C(F)(F)F | C27H24ClF3N4O3
